US04018753
12. Z-Lys(Boc)-Lys(Boc)-OMe (XII)
To an ice-cold solution of Nε -t-butyloxycarbonyl-L-lysine methyl ester hydrochloride (H-Lys(Boc)-OMe.HCl) (0.89 g, 3 mmoles) and triethylamine (0.46 ml, 3.3 mmoles) in dimethyl-formamide (8 ml) is added Nα -benzyloxycarbonyl-Nε -t-butyloxy-carbonyl-L-lysine N-hydroxysuccinimide ester (Z-Lys(Boc)-OSu) (1.43 g, 3 mmoles) (Bull. Chem. Soc. Japan 39, 882 (1966)) and the mixture is allowed to stand at 4° C overnight followed by evaporation in vacuo at a bath temperature of 40° C. The residue is dissolved in ethyl acetate and the solution is washed successively with ice-cold M hydrochloric acid, water, and M sodium bicarbonate, dried over magensium sulfate and evaporated in vacuo to give a residue, which is precipitated from ethyl acetate-petroleum ether. Reprecipitation from the same solvent yields the desired product in pure form; yield 1.80 g (96.5%), [α]D22.5 -11.7°±0.5° (c 1.0, methanol). Thin-layer chromatography (silica gel): homogeneous (to ninhydrin after pretreatment with hydrobromic acid) in chloroform-methanol-acetic acid (90:10:3, v/v).

reactant | Nε -t-butyloxycarbonyl-L-lysine methyl ester hydrochloride | 3 mmoles, 0.89 g | Cl.COC([C@@H](N)CCCCNC(=O)OC(C)(C)C)=O
reactant | triethylamine | 3.3 mmoles, 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | Z-Lys(Boc)-OSu | 3 mmoles, 1.43 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C23H31N3O8
solvent | dimethyl-formamide | 8 ml | CN(C=O)C | C3H7NO
product | Z-Lys(Boc)-Lys(Boc)-OMe | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C31H50N4O9
